US07262295B2
The product of Step 3 of Example 1, 4-hydroxy-1-(4-fluorophenyl)-2-phenoxycarbonyl naphthalene (10 grm), a 10 weight percent aqueous sodium hydroxide solution (50 mL) and methanol (50 mL) were added to a reaction flask and heated to reflux for 3 hours and then cooled to room temperature. The reaction mixture was poured onto an aqueous solution of 4N hydrochloric acid/ice mixture (approximately 400 mL). A white precipitate formed and was collected by vacuum filtration, washed with water and was air-dried. Recrystallization from ethanol (95 weight percent) gave 1-(4-fluorophenyl)-4-hydroxy-2-naphthoic acid (7 grams).

reactant | 4-hydroxy-1-(4-fluorophenyl)-2-phenoxycarbonyl naphthalene | OC1=CC(=C(C2=CC=CC=C12)C1=CC=C(C=C1)F)C(=O)OC1=CC=CC=C1 | C23H15FO3
reactant | sodium hydroxide | 50 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 1-(4-fluorophenyl)-4-hydroxy-2-naphthoic acid | 7 grams | FC1=CC=C(C=C1)C1=C(C=C(C2=CC=CC=C12)O)C(=O)O | C17H11FO3
